US04176183
A solution of 3-methyl-2-cyanopyridine (20.0 g, 0.17 m), DMF (200 mL) and DMF acetal (30 mL, 0.25 m) was heated at 120° with stirring under N2 for 5 days. Additional acetal was periodically added in 5 mL aliquots (total 45 mL, 0.38 m). The solution was then evaporated to dryness to give a crude oil which solidified on standing. The solid was crystallized from ligroin to yield 16.5 g (56%) of N,N-dimethyl-2-(2-cyano-3-pyridyl)ethenamine. An analytical sample was prepared by recrystallization from ligroin, mp 71.5°-72°.

reactant | 3-methyl-2-cyanopyridine | 20.0 g | CC=1C(=NC=CC1)C#N | C7H6N2
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
product | N,N-dimethyl-2-(2-cyano-3-pyridyl)ethenamine | 16.5 g, 56% | CN(C=CC=1C(=NC=CC1)C#N)C | C10H11N3
